US07253286B2
N-(5-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiophen-2-yl)-N′-phenylurea
5-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiophen-2-ylamine (89.0 mg, 0.280 mmol) and phenyl isocyanate (36.6 mg, 0.307 mmol) were stirred in dimethylformamide (1 ml) at room temperature for 1 hour. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=50:1), and the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, after which the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (60.0 mg, 0.137 mmol, 48%) as colorless crystals.

reactant | 5-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiophen-2-ylamine | 0.280 mmol, 89.0 mg | COC=1C=C2C(=CC=NC2=CC1OC)SC1=CC=C(S1)N | C15H14N2O2S2
reactant | phenyl isocyanate | 0.307 mmol, 36.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | N-(5-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiophen-2-yl)-N′-phenylurea | 0.137 mmol, 60.0 mg, 48% | COC=1C=C2C(=CC=NC2=CC1OC)SC1=CC=C(S1)NC(=O)NC1=CC=CC=C1 | C22H19N3O3S2
